US07452993B2
To a solution of 5-bromo-3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine (260 mg, 0.60 mmol) in THF (3 mL) was added tetrabutylammonium fluoride (6 mL of 1 M in THF solution, 6.00 mmol) and molecular sieves. The solution was heated under reflux (70° C.) for 4 hours without stirring. The solution was cooled to ambient temperature and acidified to pH=5 by adding dropwise a dilute solution of acetic acid in MeOH. The solution was filtered and the filtrate was concentrated via rotary evaporation. The material was extracted into EtOAc and washed 3× H2O. The organic layer was dried over Na2SO4 and concentrated down to afford 5-bromo-3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridine as an orange solid (177 mg, 97% yield).

reactant | 5-bromo-3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine | 0.60 mmol, 260 mg | BrC=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C | C19H24BrN3O2Si
reactant | tetrabutylammonium fluoride | 6.00 mmol, 1 M, 6 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | 5-bromo-3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridine | 177 mg, 97% yield | BrC=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC | C13H10BrN3O
